US05084085
A stirred mixture of 1.0 g (0.0032 mole) of 1-(2,4-dichloro-5-hydroxyphenyl)-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.66 g (0.0048 mole) of potassium carbonate, and 0.76 g (0.0048 mole) of 4-chloronitrobenzene in 20 ml of N,N-dimethylformamide was heated at 120° C. for approximately 18 hours. The reaction mixture was cooled and was poured into ice-water. This aqueous mixture was neutralized with hydrochloric acid and then was extracted with ethyl acetate. The organic phase was washed with water and then was dried over anhydrous magnesium sulfate. This mixture was filtered, and the filtrate was evaporated under reduced pressure leaving an orange oil. The orange oil was purified by column chromatography on silica gel, eluting with methylene chloride to yield 1.2 g of 1-[2,4-dichloro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid, m.p. 99°-101° C., compound 92 of Table 1.

reactant | 1-(2,4-dichloro-5-hydroxyphenyl)-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0032 mole, 1.0 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=C(N(C1=O)C(F)F)C | C10H7Cl2F2N3O2
reactant | potassium carbonate | 0.0048 mole, 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloronitrobenzene | 0.0048 mole, 0.76 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[2,4-dichloro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 1.2 g | ClC1=C(C=C(C(=C1)Cl)OC1=CC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C | C16H10Cl2F2N4O4
